US04138581
Following a procedure similar to that described above in Example 58A but using 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride instead of 3,4-dihydroxyphenyl tert-butylaminomethyl ketone hydrochloride, and nicotinoyl chloride instead of isovaleryl chloride, there is obtained 3-hydroxy-4-(nicotinoyloxy)phenyl isopropylaminomethyl ketone; and by interaction of this base with hydrochloric acid there is obtained the hydrochloride salt. When this hydrochloride is catalytically hydrogenated, using a procedure similar to that described above in Example 2B, there is obtained 3-hydroxy-4-(nicotinoyloxy)-alpha-(isopropylaminomethyl) benzyl alcohol hydrochloride.

reactant | 3,4-dihydroxyphenyl isopropylaminomethyl ketone hydrochloride | Cl.C(C)(C)NCC(=O)C1=CC(=C(C=C1)O)O
reactant | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
product | 3-hydroxy-4-(nicotinoyloxy)phenyl isopropylaminomethyl ketone | C(C)(C)NCC(=O)C1=CC(=C(C=C1)OC(C1=CN=CC=C1)=O)O | C17H18N2O4
